US06949571B2
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-aminophenyl)-1,2-dihydropyridin-2-one
Iron powder (180 mg) and 342 mg of ammonium chloride were added to a solution of 317 mg of 3-(2-cyanophenyl)-5-(2-pyridyl)-1-(3-nitrophenyl)-1,2-dihydropyridin-2-one in a mixture of 10 ml of 2-propanol and 5 ml of water followed by refluxing for 4 hours. The reaction mixture was concentrated, partitioned in ethyl acetate-water, the organic layer was washed with water, dried and concentrated and the residue was purified by a silica gel column chromatography (ethyl acetate/hexane system) to give 235 mg of the title compound as a pale yellow solid.

reactant | ammonium chloride | 342 mg | [Cl-].[NH4+]
reactant | 3-(2-cyanophenyl)-5-(2-pyridyl)-1-(3-nitrophenyl)-1,2-dihydropyridin-2-one | 317 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C23H14N4O3
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
solvent | water | 5 ml | O | H2O
catalyst | Iron | 180 mg | [Fe] | Fe
product | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-aminophenyl)-1,2-dihydropyridin-2-one | 235 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)N)=O | C23H16N4O
